US07329749B2
For salt formation, 1N hydrochloric acid is added to a solution of {4-[2-(4-fluorophenyl)ethyl]piperazin-1-yl}isoquinolin-1-ylmethanone in 60 ml of acetone and 50 ml of ether until crystals form. When crystallisation is complete, the mother liquor is filtered off, and the precipitate is washed with ether and dried, giving {4-[2-(4-fluorophenyl)ethyl]piperazin-1-yl}isoquinolin-1-ylmethanone, hydrochloride, m.p. 238-240°.

reactant | hydrochloric acid | 1N | Cl | ClH
reactant | {4-[2-(4-fluorophenyl)ethyl]piperazin-1-yl}isoquinolin-1-ylmethanone | FC1=CC=C(C=C1)CCN1CCN(CC1)C(=O)C1=NC=CC2=CC=CC=C12 | C22H22FN3O
solvent | acetone | 60 ml | CC(=O)C | C3H6O
solvent | ether | 50 ml | CCOCC | C4H10O
product | {4-[2-(4-fluorophenyl)ethyl]piperazin-1-yl}isoquinolin-1-ylmethanone, hydrochloride | Cl.FC1=CC=C(C=C1)CCN1CCN(CC1)C(=O)C1=NC=CC2=CC=CC=C12 | InChI=1S/C22H22FN3O.ClH/c23-19-7-5-17(6-8-19)10-12-25-13-15-26(16-14-25)22(27)21-20-4-2-1-3-18(20)9-11-24-21;/h1-9,11H,10,12-16H2;1H
